US05650415
3-Ethoxycarbonyl-4-(3-trifluoromethylphenylmercapto)-6-trifluoromethylquinoline (A711)
The reaction mixture of 151.8 mg (0.50 mmol) of 4-chloro-3-ethoxycarbonyl-6-trifluoromethylquinoline, 106.9 mg (0.60 mmol) of 3-trifluoromethylthiophenol and 100 μL of diisopropylethylamine in 2.0 mL of N,N-dimethylformamide was stirred at room temperature for 2 h and cooled. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulphate and concentrated. The resulting residue was purified on silica gel column eluting with ethyl acetate-hexane (1:3) to give 76.4 mg (34%) of the title compound.

reactant | 4-chloro-3-ethoxycarbonyl-6-trifluoromethylquinoline | 0.50 mmol, 151.8 mg | ClC1=C(C=NC2=CC=C(C=C12)C(F)(F)F)C(=O)OCC | C13H9ClF3NO2
reactant | 3-trifluoromethylthiophenol | 0.60 mmol, 106.9 mg | FC(C=1C=C(C=CC1)S)(F)F | C7H5F3S
reactant | diisopropylethylamine | 100 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | 3-Ethoxycarbonyl-4-(3-trifluoromethylphenylmercapto)-6-trifluoromethylquinoline | 76.4 mg, 34% | C(C)OC(=O)C=1C=NC2=CC=C(C=C2C1SC1=CC(=CC=C1)C(F)(F)F)C(F)(F)F | C20H13F6NO2S
